US07030128B2
2,6-Dibromopyridine was coupled with 7-(1-methyl-1-triethylsilanyloxyethyl)-3-tributylstannylimidazo[1,2-α]pyrimidine by the method of Example 1 to afford 3-(6-bromopyridin-2-yl)-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine as an orange oil: δH (360 MHz, CDCl3) 0.69 (6H, q, J 8), 0.99 (9H, q, J 8), 1.69 (6H, s), 7.34 (1H, d, J 7), 7.54-7.62 (2H, m), 7.69 (1H, d, J 8), 8.29 (1H, s), 10.00 (1H, d, J 7).

reactant | 2,6-Dibromopyridine | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | 7-(1-methyl-1-triethylsilanyloxyethyl)-3-tributylstannylimidazo[1,2-α]pyrimidine | CC(C)(O[Si](CC)(CC)CC)C1=NC=2N(C=C1)C(=CN2)[Sn](CCCC)(CCCC)CCCC
product | 3-(6-bromopyridin-2-yl)-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine | BrC1=CC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(C)(O[Si](CC)(CC)CC)C | C20H27BrN4OSi
